US08623889B2
To a solution of N-(7-(2-methylprop-1-enyl)isoquinolin-3-yl)cyclopropanecarboxamide (100.0 mg, 0.2891 mmol) in ethyl acetate (10.0 mL, 102 mmol) was added palladium (30.6 mg, 0.0288 mmol) (10 wt % on carbon). The reaction vessel was purged first with nitrogen and then with hydrogen, and stirred at room temperature under a hydrogen balloon for 2 hours. Ethanol (5.0 mL, 86 mmol) and palladium (41.9 mg, 0.0394 mmol) were added, and the reaction maintained at room temperature for 19 hours. The reaction mixture was then filtered through celite and evaporated in vacuo. The crude product was purified via reverse phase HPLC and lyophilized to yield 54.4 mg (70%) of N-(7-isobutylisoquinolin-3-yl)cyclopropanecarboxamide. LCMS (ESI): RT=5.079, M+H=269.1, method=E; 1H NMR (400 MHz, DMSO-d6) δ 10.85 (s, 1H), 9.06 (s, 1H), 8.41 (s, 1H), 7.86-7.70 (m, 2H), 7.54 (dd, J=8.6, 1.3 Hz, 1H), 2.62 (d, J=7.1 Hz, 2H), 2.13-2.01 (m, 1H), 1.94 (dp, J=13.4, 6.7 Hz, 1H), 0.90 (d, J=6.6 Hz, 6H), 0.86-0.75 (m, 4H).

reactant | N-(7-(2-methylprop-1-enyl)isoquinolin-3-yl)cyclopropanecarboxamide | 0.2891 mmol, 100.0 mg | CC(=CC1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1)C | C17H18N2O
reactant | ethyl acetate | 102 mmol, 10.0 mL | C(C)(=O)OCC | C4H8O2
reactant | Ethanol | 86 mmol, 5.0 mL | C(C)O | C2H6O
catalyst | palladium | 0.0288 mmol, 30.6 mg | [Pd] | Pd
catalyst | palladium | 0.0394 mmol, 41.9 mg | [Pd] | Pd
product | N-(7-isobutylisoquinolin-3-yl)cyclopropanecarboxamide | 54.4 mg, 70% | C(C(C)C)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C17H20N2O
